US04035407
3,4,5-Trichloro-N,N-dimethyl-2-((thiocyanomethyl)thio)benzenesulfonamide
To a stirring mixture a 1.5 grams (0.0047 mole) of 3,4,5-trichloro-N,N-dimethyl-2-(mercapto)benzenesulfonamide in 80 milliliters of methanol at 25° C, was added 0.39 grams of sodium methoxide. The mixture was stirred for 15 minutes and thereafter 1.0 gram (0.009 mole) of chloromethylthiocyanate was added thereto and the mixture stirred at room temperature for 3 hours. At the end of this time period, the reaction mixture was filtered to remove the solids which had precipitated. The filtrate further heated at 62° C for 2 hours and after cooling, the solvent was reduced in volume by evaporation under reduced pressure. The solids were thereafter removed by filtration. Additional filtrations gave additional solids. The recovered solids were combined and dissolved in chloroform and filtered. The solvent was removed by evaporation under reduced pressure and the solid product which remained was air dried. The 3,4,5-trichloro-N,N-dimethyl-2-((thiocyanomethyl)thio)benzenesulfonamide product was recovered in a yield of 0.7 grams (40 percent of theoretical) and melted at 155°-156° C.

reactant | 3,4,5-trichloro-N,N-dimethyl-2-(mercapto)benzenesulfonamide | 0.0047 mole, 1.5 grams | ClC=1C(=C(C=C(C1Cl)Cl)S(=O)(=O)N(C)C)S | C8H8Cl3NO2S2
reactant | sodium methoxide | 0.39 grams | C[O-].[Na+]
reactant | chloromethylthiocyanate | 0.009 mole, 1.0 gram | ClCSC#N | C2H2ClNS
solvent | methanol | 80 milliliters | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4,5-Trichloro-N,N-dimethyl-2-((thiocyanomethyl)thio)benzenesulfonamide | ClC=1C(=C(C=C(C1Cl)Cl)S(=O)(=O)N(C)C)SCSC#N | C10H9Cl3N2O2S3
